US07737166B2
7-Fluoro-2-isopropyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-52)
Toluene (10 ml), p-toluenesulfonic acid monohydrate (5.3 mg, 28 μmol) were added to N-(5-cyano-2-fluoro-3-hydroxy-6-methylbiphenyl-4-yl)isobutylamide (I-51) (87 mg, 279 μmol), followed by refluxing with a Dean-Stark condenser for 3.5 hours. During the course, p-toluenesulfonic acid monohydrate (5.3 mg, 28 μmol) was added. Alter cooled, ethyl acetate (50 ml) was added to the reaction liquid, the organic layer was successively washed with saturated sodium bicarbonate water (30 ml), saturated brine (30 ml×2), then dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1) to obtain the entitled compound (82 mg, quant.) as a colorless solid.

reactant | Toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid monohydrate | 28 μmol, 5.3 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | N-(5-cyano-2-fluoro-3-hydroxy-6-methylbiphenyl-4-yl)isobutylamide | 279 μmol, 87 mg | C(#N)C=1C(=C(C(=C(C1C)C1=CC=CC=C1)F)O)[N-]CC(C)C
reactant | p-toluenesulfonic acid monohydrate | 28 μmol, 5.3 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 7-Fluoro-2-isopropyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | FC=1C(=C(C(=C2N=C(OC21)C(C)C)C#N)C)C2=CC=CC=C2 | C18H15FN2O
